US05103013
Isopropyl 2-(1,3-dithietan-2-ylidene)-2-(N-benzylcarbamoyl)acetate
The mixture of isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate (15 g) and benzylamine (6.4 ml) in methylene chloride (150 ml) was stirred at room temperature for 4 hrs. The reaction mixture was then washed with dil-HCl and water to remove benzylamine. The solvent was evaporated and the residue was purified with ethyl acetate to give the titled compound as a white solid. (12.2 g, 77%).

reactant | isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate | 15 g | S1C(SC1)=C(C(=O)OC(C)C)C(=O)C(=O)OOCC | C11H14O6S2
reactant | benzylamine | 6.4 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithietan-2-ylidene)-2-(N-benzylcarbamoyl)acetate | S1C(SC1)=C(C(=O)OC(C)C)C(NCC1=CC=CC=C1)=O | C15H17NO3S2
